US07763731B2
4-(4-Amino-2-nitro-phenylsulfanyl)-phenol
A solution of 4-chloro-3-nitro aniline (1.0 g, 5.79 mmol), 4-hydroxythiophenol (0.75 g, 6.00 mmol), cesium carbonate (3.9 g, 12 mmol) in DMSO (10 mL) was heated at 100° C. for 16 hours. Afterwards ice water (50 mL) was added to the solution and the resultant slurry was treated with ethyl acetate (100 mL). The layers were separated and the organic layer washed with 10% sodium bicarbonate and 10% sodium chloride, then dried over anhydrous sodium sulfate. The drying agent was filtered and concentrated under vacuum giving the title compound as a red solid (1.45 g, 92%).

reactant | 4-chloro-3-nitro aniline | 5.79 mmol, 1.0 g | ClC1=C(C=C(N)C=C1)[N+](=O)[O-] | C6H5ClN2O2
reactant | 4-hydroxythiophenol | 6.00 mmol, 0.75 g | OC1=CC=C(C=C1)S | C6H6OS
reactant | cesium carbonate | 12 mmol, 3.9 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | DMSO | 10 mL | CS(=O)C | C2H6OS
product | 4-(4-Amino-2-nitro-phenylsulfanyl)-phenol | 1.45 g, 92% | NC1=CC(=C(C=C1)SC1=CC=C(C=C1)O)[N+](=O)[O-] | C12H10N2O3S
